US04857527
To a solution of ethyl 4-(3-nitrophenyl)-6-phenyl-3-pyridazinecarboxylate (1 g) in a mixture of ethanol (10 ml) and tetrahydrofuran (10 ml) was added sodium borohydride (0.22 g) and the mixture was stirred for 3 hours at ambient temperature. Then the reaction mixture was poured into a mixture of ethyl acetate (100 ml) and water (50 ml). The organic layer was washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The residue was subjected to a column chromatography on silica gel (50 g) and eluted with a mixture of benzene and ethyl acetate (5:1 V/V). The fractions containing the desired compound were combined and concentrated under reduced pressure. The residue was recrystallized from a mixture of ethanol and chloroform to give 3-hydroxymethyl-4-(3-nitrophenyl)-6-phenylpyridazine (0.19 g).

reactant | ethyl 4-(3-nitrophenyl)-6-phenyl-3-pyridazinecarboxylate | 1 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=C(N=NC(=C1)C1=CC=CC=C1)C(=O)OCC | C19H15N3O4
reactant | sodium borohydride | 0.22 g | [BH4-].[Na+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 50 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-hydroxymethyl-4-(3-nitrophenyl)-6-phenylpyridazine | 0.19 g | OCC=1N=NC(=CC1C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C17H13N3O3
